US08044052B2
Synthesis of 4-(fluoro(3-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)methylene)-N-(6-methoxypyridin-3-yl)piperidine-1-carboxamide
To a solution of 2-(3-(fluoro(piperidin-4-ylidene)methyl)phenoxy)-5-(trifluoromethyl)pyridine (110 mg, 0.312 mmol) and phenyl 6-methoxypyridin-3-ylcarbamate (76.2 mg, 0.312 mmol) in DMSO (5 mL) under a N2 atmosphere was added 5 drops of triethyl amine and the reaction mixture was stirred for 12 h. The reaction mixture was diluted with water and extracted with EtOAc. The organic layer was washed with water several times to remove the excess DMSO. The title compound was crystallized from hexane and diethyl ether to give the pure title compound (70 mg). 1H NMR (500 MHz, CDCl3): δ 2.5 (brs, 2H), 2.6 (brs, 2H), 3.5 (brs, 2H), 3.6 (brs, 2H), 4.0 (s, 3H), 6.7 (d, 1H, J=9 Hz), 7.0 (d, 1H, J=8.5 Hz), 7.1-7.3 (m, 3H), 7.4 (t, 1H, J=8.5 Hz), 7.9 (m, 1H), 8.1 (s, 1H), 8.4 (s, 1H); 13CNMR (125 MHz, CDCl3): 25.5, 27.7, 29.7, 44.0, 44.3, 53.8, 60.4, 110.3, 111.6, 114.2, 114.3, 121.3, 121.4, 121.7, 122.0, 122.5, 124.7, 125.3, 129.6, 129.9, 133.6, 133.8, 134.1, 136.8, 138.5, 145.3, 145.4, 149.9, 151.8, 153.0, 155.2, 160.3, 165.4; m/z (503.3 M+ H+); HPLC: 97.6%.

reactant | 2-(3-(fluoro(piperidin-4-ylidene)methyl)phenoxy)-5-(trifluoromethyl)pyridine | 0.312 mmol, 110 mg | FC(C=1C=C(OC2=NC=C(C=C2)C(F)(F)F)C=CC1)=C1CCNCC1 | C18H16F4N2O
reactant | phenyl 6-methoxypyridin-3-ylcarbamate | 0.312 mmol, 76.2 mg | COC1=CC=C(C=N1)NC(OC1=CC=CC=C1)=O | C13H12N2O3
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
catalyst | triethyl amine | 5 drops | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 4-(fluoro(3-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)methylene)-N-(6-methoxypyridin-3-yl)piperidine-1-carboxamide | 70 mg | FC(=C1CCN(CC1)C(=O)NC=1C=NC(=CC1)OC)C1=CC(=CC=C1)OC1=NC=C(C=C1)C(F)(F)F | C25H22F4N4O3
